US04010177
In the manner given in Example 1, 8-chloro-1-[[(2propynyl)amino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated in formic acid with aqueous formaldehyde to give 5-chloro-2',6'-difluoro-2-[3-[[(2propynyl)methylamino]methyl]-5-(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 8-chloro-1-[[(2propynyl)amino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC#C)C3=C(C=CC=C3F)F)C1 | C20H14ClF2N5
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
